US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-indan-2-yl-amine, Hydrochloride (Compound A26)
Was prepared according to Method A from 2,4-dichloroquinazoline, 2-aminoindan and 3,5-dimethylpyrazole. Mp. 212-215° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 2-aminoindan | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-indan-2-yl-amine, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1CC2=CC=CC=C2C1 | InChI=1S/C22H21N5.ClH/c1-14-11-15(2)27(26-14)22-24-20-10-6-5-9-19(20)21(25-22)23-18-12-16-7-3-4-8-17(16)13-18;/h3-11,18H,12-13H2,1-2H3,(H,23,24,25);1H
